*
* Linear Technology LM118 op amp model
* Written: 11-21-1989 Type: Bipolar npn input, internal comp.
* Typical specs: 
*       Ref. LM118 data sheet, LTC 1990 databook p2-313
* Comments:
*       Uses extended phase compensation; input differential mode clamp.
* 
* Connections: + - V+V-O 
.SUBCKT LM118 3 2 7 4 6 
* INPUT
RC1 7 80 7.074E+02
RC2 7 90 7.074E+02
Q1 80 2 10 QM1 
Q2 90 3 11 QM1
*
C1 80 91 300E-12
RXC1 91 90 1E3
CXC1 91 90 15E-12
C2 1 8 5.000E-12
*
RB1 2 102 1.0000E+00
RB2 3 103 1.0000E+00
DDM1 102 104 DM2 
VZ1 104 103 5.5 
DDM2 103 105 DM2 
VZ2 105 102 5.5 
RE1 10 12 6.209E+02
RE2 11 12 6.209E+02
IEE 12 4 6.000E-04
RE 12 0 3.332E+05
CE 12 0 2.632E-13
*
GCM 0 8 12 0 1.414E-08
GA 8 0 80 90 1.414E-03
R2 8 0 1.000E+05
GB 1 0 8 0 5.318E+01
RO2 1 0 7.4000E+01
*
RS 1 6 1
ECL 18 0 1 6 3.172E+01
GCL 0 8 20 0 1
RCL 20 0 1E3
D1 18 20 DM1
D2 20 18 DM1
*
D3A 131 70 DM3
D3B 13 131 DM3
GPL 0 8 70 7 1
VC 13 6 3.6473
RPLA 7 70 1E4
RPLB 7 131 1E5
D4A 60 141 DM3
D4B 141 14 DM3
GNL 0 8 60 4 1
VE 6 14 3.6473
RNLA 60 4 1E4
RNLB 141 4 1E5
*
IP 7 4 4.400E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=2.4390E+03)
.MODEL QM2 NPN (IS=8.6435E-16 BF=2.5641E+03)
*
.MODEL DM1 D (IS=1.000E-19)
.MODEL DM2 D (IS=8.000E-16)
.MODEL DM3 D (IS=1.000E-20)
.ENDS LM118
* 
* - - - - - * FINI LM118 * - - - - - *
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
